US08232390B2
Step 1: methyl 2-[bis(tert-butoxycarbonyl)amino]acrylate
To a solution of methyl N-(tert-butoxycarbonyl)serinate in MeCN (0.9 M), 0.1 eq of DIPEA and 2.5 eq of di-tert-butyl dicarbonate were added and the mixture was stirred overnight at RT. Volatiles were removed in vacuo and the residue was taken up in EtOAc. The organic phase was washed with aqueous NH4Cl, NaHCO3 (s.s.) and then brine before being dried over Na2SO4, filtered and the solvent evaporated in vacuo to afford the title compound (quant). The material was used in the next step without any further purification. MS (ES+) m/z 302 (M+H)+.

reactant | methyl N-(tert-butoxycarbonyl)serinate | C(C)(C)(C)OC(=O)N[C@@H](CO)C(=O)OC | C9H17NO5
reactant | DIPEA | 0.1 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 2.5 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeCN | 0.9 M | CC#N | C2H3N
product | methyl 2-[bis(tert-butoxycarbonyl)amino]acrylate | C(C)(C)(C)OC(=O)N(C(C(=O)OC)=C)C(=O)OC(C)(C)C | C14H23NO6
